US08378095B2
To a stirred solution of potassium tert-butoxide (0.84 g, 7.5 mmol) in dry THF (5.25 mL) under an N2 atmosphere at −78° C. was added a cooled (−78° C.) solution of N-(diphenylmethylene)glycine ethyl ester (2.00 g, 7.5 mmol) in dry THF (3 mL), dropwise. The resulting solution was stirred at −78° C. for 30 minutes when it was added via canula to a stirred solution of 2-thiophene carbonyl chloride (0.80 mL, 7.5 mmol) in dry THF (3 mL) under an N2 atmosphere at −78° C. The resulting mixture was stirred at −78° C. for 1 hour. The reaction was warmed to room temperature, 3N aqueous HCl (7.5 mL) was then added and the mixture stirred for 15 minutes. The resulting mixture was then concentrated in vacuo, diluted with water and washed with Et2O. The aqueous phase was evaporated to dryness to afford ethyl 2-amino-3-oxo-3-(thiophen-2-yl)propanoate hydrochloride (1.345 g) as a pale solid which was used without further purification. LCMS (2) Rt: 1.44 min; m/z (ES+) 214.

reactant | potassium tert-butoxide | 7.5 mmol, 0.84 g | CC(C)([O-])C.[K+]
reactant | N-(diphenylmethylene)glycine ethyl ester | 7.5 mmol, 2.00 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | 2-thiophene carbonyl chloride | 7.5 mmol, 0.80 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | HCl | 3N, 7.5 mL | Cl | ClH
solvent | THF | 5.25 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | ethyl 2-amino-3-oxo-3-(thiophen-2-yl)propanoate hydrochloride | 1.345 g | Cl.NC(C(=O)OCC)C(C=1SC=CC1)=O | InChI=1S/C9H11NO3S.ClH/c1-2-13-9(12)7(10)8(11)6-4-3-5-14-6;/h3-5,7H,2,10H2,1H3;1H
